US08071584B2
1-(1,1-Dimethylethyl) 7-ethyl 5-bromo-3-(1,1-dioxido-4-thiepanyl)-1H-indole-1,7-dicarboxylate
Reaction performed behind a blast shield. Triflic anhydride (0.47 mL, 3.3 mmol, 3 eq) was diluted in acetonitrile (10 mL), and urea hydrogen peroxide (387 mg, 4.1 mmol, 3.7 eq) was added. The mixture was stirred at rt for 30 minutes, then cooled to 0° C. 1-(1,1-dimethylethyl) 7-ethyl 5-bromo-3-(4-thiepanyl)-1H-indole-1,7-dicarboxylate (536 mg, 1.1 mmol, 1 eq) was diluted in acetonitrile (15 mL) and cooled to 0° C. The oxidant solution was added to the indole solution dropwise and the reaction mixture was warmed to rt after addition was complete. After stirring at rt for 45 minutes, water (20 mL) was added and the reaction mixture was extracted twice with ethyl acetate (20 mL). The combined organics were dried over sodium sulfate, filtered, and concentrated. The crude residue was purified by Isco Combiflash, eluting with 0-50% ethyl acetate in hexanes. The product fractions were combined and concentrated to afford a yellow oil, which was subsequently evaporated from dichlormethane/hexanes to afford the title compound as a white solid (273 mg, 48%).

reactant | Triflic anhydride | 3.3 mmol, 0.47 mL, 3 eq | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | urea hydrogen peroxide | 4.1 mmol, 387 mg, 3.7 eq | OO.NC(=O)N
reactant | 1-(1,1-dimethylethyl) 7-ethyl 5-bromo-3-(4-thiepanyl)-1H-indole-1,7-dicarboxylate | 1.1 mmol, 536 mg, 1 eq | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OCC)C(=O)OC(C)(C)C)C1CCSCCC1 | C22H28BrNO4S
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | water | 20 mL | O | H2O
product | 1-(1,1-Dimethylethyl) 7-ethyl 5-bromo-3-(1,1-dioxido-4-thiepanyl)-1H-indole-1,7-dicarboxylate | 273 mg, 48% | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OCC)C(=O)OC(C)(C)C)C1CCS(CCC1)(=O)=O | C22H28BrNO6S
